US07566735B2
4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid
A mixture of methyl 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoate (600 mg, 1.85 mmol), sodium hydroxide (81 mg, 2.0 mmol), in ethanol (4 ml) and water (4 ml) was stirred at reflux for 1 hour. The reaction mix was allowed to cool and the ethanol was removed under reduced pressure and the residue was partitioned between diethyl ether (10 ml) and water (10 ml). The aqueous layer was separated and made acidic with 2N HCl, then extracted with dichloromethane. The organic layer was dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a beige solid (222 mg, 39%)

reactant | methyl 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoate | 1.85 mmol, 600 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C(=O)OC)C=C1)(F)F | C16H15F3N2O2
reactant | sodium hydroxide | 2.0 mmol, 81 mg | [OH-].[Na+]
reactant | water | 4 ml | O | H2O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid | 222 mg, 39% | FC(C1=NN(C=2CCCCC12)C1=CC=C(C(=O)O)C=C1)(F)F | C15H13F3N2O2
